US07902367B2
Step 81c) Methyl 3-[3-[[4-(4-fluorophenoxy)phenyl]methoxy]piperidin-1-yl]benzoate
Using 3-[4-(4-fluorophenoxy)benzyloxy]piperidine (157 mg, 0.521 mmol) and 3-(methoxycarbonyl)phenylboric acid (187 mg, 1.04 mmol), the same procedure was followed as in Example 2 to give 94.8 mg (42%) of the desired compound as a colorless oil.

reactant | 3-[4-(4-fluorophenoxy)benzyloxy]piperidine | 0.521 mmol, 157 mg | FC1=CC=C(OC2=CC=C(COC3CNCCC3)C=C2)C=C1 | C18H20FNO2
reactant | 3-(methoxycarbonyl)phenylboric acid | 1.04 mmol, 187 mg | COC(=O)C=1C=C(C=CC1)OB(O)O | C8H9BO5
product | Methyl 3-[3-[[4-(4-fluorophenoxy)phenyl]methoxy]piperidin-1-yl]benzoate | 94.8 mg, 42% | FC1=CC=C(OC2=CC=C(C=C2)COC2CN(CCC2)C=2C=C(C(=O)OC)C=CC2)C=C1 | C26H26FNO4
